US04800201
Preparation of 2-diethylamino-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride
Diethylamine (2.58 ml) was added to a solution of 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (0.9 g) in dry dichloromethane (12 ml) and the mixture was stirred at ambient temperature for 21 hours. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate, was washed with saturated sodium bicarbonate aqueous solution and successively with water and was dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was chromatographed on silica gel (Wakogel C-200) column, using chloroform-methanol (=20:1) as an eluant to give pale yellow oily product. The oily product was dissolved in methanol and was adjusted to pH 2 by 2N hydrochloric acid. The solvent was removed under reduced pressure and the residue was washed with THF and allowed to stand to give the titled compound (0.685 g, yield 78.4%) as yellow crystals.

reactant | Diethylamine | 2.58 ml | C(C)NCC | C4H11N
reactant | 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.9 g | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-diethylamino-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride | 0.685 g, yield 78.4% | Cl.C(C)N(C1SC(=C(NC1=O)C)C1=CC=NC=C1)CC | InChI=1S/C14H19N3OS.ClH/c1-4-17(5-2)14-13(18)16-10(3)12(19-14)11-6-8-15-9-7-11;/h6-9,14H,4-5H2,1-3H3,(H,16,18);1H
